US08026237B2
A mixture of 4-fluoro-2-(trifluoromethyl)aniline (4.4 g, 24.6 mmol), 2,5-hexanedione (2.8 g, 24.5 mmol) and acetic acid (0.28 mL) was heated to 100° C. After 3h the reaction mixture was cooled and partitioned between EtOAc and water. The organic layer was separated, dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (SiO2), eluting with EtOAc/Hex (0:100 to 10:90) to afford 1-[4-fluoro-2-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole as a yellow oil (3.19 g, 50%); 1H NMR (CDCl3): δ 7.52 (dd, J=8, 3 Hz, 1H), 7.35 (dt, J=3, 8 Hz, 1H), 7.25 (dd, J=5, 8 Hz, 1H), 5.90 (s, 2H), 1.91 (s, 6H); MS (ESI) m/z 258 [M+H]+.

reactant | 4-fluoro-2-(trifluoromethyl)aniline | 24.6 mmol, 4.4 g | FC1=CC(=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | 2,5-hexanedione | 24.5 mmol, 2.8 g | CC(CCC(C)=O)=O | C6H10O2
solvent | acetic acid | 0.28 mL | C(C)(=O)O | C2H4O2
product | 1-[4-fluoro-2-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole | 3.19 g, 50% | FC1=CC(=C(C=C1)N1C(=CC=C1C)C)C(F)(F)F | C13H11F4N
